US04500526
A mixture of diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate [VIIa] (466 mg, 0.5 mmole) and 2-(3-methylureido)-thiazolo[4,5-c]pyridine (104 mg, 0.5 mmole) in 3 ml of dry DMF was stirred at room temperature for 1 hour and diluted with ether acetate to give 430 mg of crude quaternary salt, which was treated with TFA and anisole at room temperature for 30 minutes. The mixture was evaporated and triturated with ether to give 302 mg of crude Ir which was purified on a column of HP-20 resin (40 ml) using 30% CH3OH as an eluant to give 169 mg (56%) of Ir. Mp. 184°~200° C. (dec.). Estimated purity by HPLC: 40%.

reactant | diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 0.5 mmole, 466 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H38IN5O5S2
reactant | 2-(3-methylureido)-thiazolo[4,5-c]pyridine | 0.5 mmole, 104 mg | CNC(NC=1SC2=C(C=NC=C2)N1)=O | C8H8N4OS
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ether acetate | CCOCC.C(C)(=O)[O-]
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[2-(3-methylureido)-5-thiazolo[4,5-c]pyridinio]methyl-3-cephem-4-carboxylate | 302 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC3=C(C=C2)SC(=N3)NC(=O)NC)C(=O)[O-])C1=O)=N/OC | C22H21N9O6S3
